US05849945
Preparation Process of 5 -acetylamino-7-fluoro-8-methyl-l-tetralone
In 50 ml of methylene chloride, 5.0 g of 4-(2 -acetylamino-4-fluoro-5-methylphenyl)butanoic acid was suspended. To the suspension, 4.3 ml of thionyl chloride was added dropwise over 2 minutes at an internal temperature of 3° to 4° C., followed by stirring at the same temperature for 15 minutes and then at room temperature for 45 minutes. To the resulting mixture, 6.6 g of aluminum chloride were added over 5 minutes at an internal temperature of 4° to 6° C., followed by stirring for one hour at the same temperature and then stirring for 24 hours at room temperature. After the completion of the reaction, a 5% aqueous hydrochloric acid solution and ice were added gradually to the reaction mixture and they were stirred for a while. The reaction mixture was extracted with chloroform. The chloroform layer was washed sufficiently with water and a saturated aqueous solution of sodium bicarbonate, and was then dried over potassium carbonate. The solvent was removed under reduced pressure. To the residue so obtained, isopropyl ether was added. The crystals so precipitated were collected by filtration, whereby 3.5 g of the title compound was obtained.

reactant | 4-(2 -acetylamino-4-fluoro-5-methylphenyl)butanoic acid | 5.0 g | C(C)(=O)NC1=C(C=C(C(=C1)F)C)CCCC(=O)O | C13H16FNO3
reactant | thionyl chloride | 4.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 6.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5 -acetylamino-7-fluoro-8-methyl-l-tetralone | 3.5 g | C(C)(=O)NC1=C2CCCC(C2=C(C(=C1)F)C)=O | C13H14FNO2
